US05576343
5.5 g of 4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde was dissolved in 20 ml of dichloromethane, followed by the addition of 30 ml of formic acid. The thus prepared mixture was stirred at room temperature for 1 hour and then at 50° C. for 1 hour. The solvent and formic acid were distilled off under a reduced pressure, and the resulting residue was dissolved in 100 ml of tetrahydrofuran. The thus prepared solution was mixed with 2.68 g of acetyl chloride, and 8.63 g of triethylamine was added dropwise thereto while stirring under ice cooling. Thereafter, the solvent was distilled off, and the residue thus obtained was dissolved in chloroform, and washed with water, followed by drying of the resulting organic layer. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using toluene as an elution solvent, thereby obtaining 4.3 g of 4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde as a viscous oil.

reactant | 4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde | 5.5 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=C(C=C(C=O)C=C1)OC | C17H23NO5
reactant | formic acid | 30 ml | C(=O)O | CH2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]-3-methoxybenzaldehyde | 4.3 g | C(C)(=O)N1C[C@H](CC1)OC1=C(C=C(C=O)C=C1)OC | C14H17NO4
